US09145407B2
5-[2-Methoxy-5-(trifluoromethyl)phenyl]-6-methylpyridazin-3(2H)-one
5-Hydroxy-4-[2-methoxy-5-(trifluoromethyl)phenyl]-5-methylfuran-2(5H)-one (Preparation 40, 3 g, 10 mmol) was dissolved in ethanol and cooled to 0° C. Hydrazine monohydrate (1.0 mL, 20 mmol) was added drop-wise to this solution, then the reaction mixture was heated to 90° C. for 16 hours. The reaction mixture was then concentrated in vacuo, azeotoped with toluene and the crude material purified by silica gel column chromatography (ISCO™ Companion, 50% ethyl acetate in heptane elution) to afford the title compound as an off-white solid (1.05 g).

reactant | 5-Hydroxy-4-[2-methoxy-5-(trifluoromethyl)phenyl]-5-methylfuran-2(5H)-one | 10 mmol, 3 g | OC1(C(=CC(O1)=O)C1=C(C=CC(=C1)C(F)(F)F)OC)C | C13H11F3O4
reactant | Hydrazine monohydrate | 20 mmol, 1.0 mL | O.NN
solvent | ethanol | C(C)O | C2H6O
product | 5-[2-Methoxy-5-(trifluoromethyl)phenyl]-6-methylpyridazin-3(2H)-one | 1.05 g | COC1=C(C=C(C=C1)C(F)(F)F)C1=CC(NN=C1C)=O | C13H11F3N2O2
